US04709050
3-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(1-n-butyl-2, 5-dioxopyrrolidin-3-yl)-1-n-butylpyrrolidine-2,5-dione
This compound is prepared by the procedure of Example 1 from 2.40 g (0.1 mol) of sodium hydride, 20.63 (0.1 mol) of 2,6-di-tert-butyl-phenol and 15.31 g (0.1 mol) of N-n-butylmaleimide in dimethyl sulfoxide. The residue is extracted with a 1:1 mixture of hot heptane containing 10 ml of toluene. The heptane extract is concentrated to 150 ml and the resultant solid collected by filtration. The crude product is recrystallized from cyclohexane to give 1.03 g (4%) of a white solid: mp 151°-153° C.

reactant | sodium hydride | 0.1 mol, 2.40 g | [H-].[Na+]
reactant | 2,6-di-tert-butyl-phenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | N-n-butylmaleimide | 0.1 mol, 15.31 g | C(CCC)N1C(C=CC1=O)=O | C8H11NO2
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)-4-(1-n-butyl-2, 5-dioxopyrrolidin-3-yl)-1-n-butylpyrrolidine-2,5-dione | 1.03 g, 4% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1C(N(C(C1C1C(N(C(C1)=O)CCCC)=O)=O)CCCC)=O | C30H44N2O5
